US07268157B2
Preparation of 2-[(2-(2-methylbenzoyl)phenyl)amino]-3-[4-(2-bromoethoxy)-phenyl]-propionic acid methyl ester
To a solution of potassium hydroxide (0.17 g, 2.95 mmol) in ethanol (20 ml) is added 2-[(2-(2-methylbenzoyl)phenyl)amino]-3-(4-hydroxyphenyl)-propionic acid methyl ester (1.15 g, 2.95 mmol) and 1,2-dibromoethane (5.54 g, 29.50 mmol). Then the mixture is heated to reflux for 8 hours. After cooled, the reaction mixture is filtered to remove the solid formed, and then the filtrate is evaporated under a vacuum. The crude product is purified by silica gel chromatography using hexane/EtOAc (4:1) as eluent to give the title compound (0.83 g, 57%).

reactant | potassium hydroxide | 2.95 mmol, 0.17 g | [OH-].[K+]
reactant | 2-[(2-(2-methylbenzoyl)phenyl)amino]-3-(4-hydroxyphenyl)-propionic acid methyl ester | 2.95 mmol, 1.15 g | COC(C(CC1=CC=C(C=C1)O)NC1=C(C=CC=C1)C(C1=C(C=CC=C1)C)=O)=O | C24H23NO4
reactant | 1,2-dibromoethane | 29.50 mmol, 5.54 g | BrCCBr | C2H4Br2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[(2-(2-methylbenzoyl)phenyl)amino]-3-[4-(2-bromoethoxy)-phenyl]-propionic acid methyl ester | 0.83 g, 57% | COC(C(CC1=CC=C(C=C1)OCCBr)NC1=C(C=CC=C1)C(C1=C(C=CC=C1)C)=O)=O | C26H26BrNO4
